US09428499B2
A solution of 2-(3-nitrophenyl)acetonitrile (2.5 g, 15.42 mmol) and 1,2-dibromoethane (1.329 ml, 15.42 mmol) in DMSO/Et2O (1:1, 10 ml) was added dropwise to a suspension of NaH (1.233 g, 30.8 mmol) in DMSO (Volume: 10 ml, Ratio: 1.000), keeping the temperature at 0° C. Resulting mixture was stirred at ambient temperature for 24 h under N2 atm. The reaction mixture was quenched by addition of IPA (2 ml) and water; partitioned between water (300 ml) and EtOAc (300 ml). The aq. phase was re-extracted with EtOAc (300 ml). Combined organic layers were dried over sodium sulphate and concentrated in vacuo. The residue was purified by flash chromatography to afford 1-(3-nitrophenyl)cyclopropanecarbonitrile (1.799 g, 9.56 mmol).

reactant | 2-(3-nitrophenyl)acetonitrile | 15.42 mmol, 2.5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC#N | C8H6N2O2
reactant | 1,2-dibromoethane | 15.42 mmol, 1.329 ml | BrCCBr | C2H4Br2
reactant | NaH | 30.8 mmol, 1.233 g | [H-].[Na+]
solvent | DMSO Et2O | 10 ml | CS(=O)C.CCOCC
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-(3-nitrophenyl)cyclopropanecarbonitrile | 9.56 mmol, 1.799 g | [N+](=O)([O-])C=1C=C(C=CC1)C1(CC1)C#N | C10H8N2O2
